US06627644B2
To a solution of 7-nitro-3,4-dihydro-1H-naphthalen-2-one (600 mg, 2.98 mmol), prepared as described in J. Med. Chem., 1989, 32(9), 2128-34, and 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (700 mg, 3.3 mmol) in dichloroethane (50 mL) under a nitrogen atmosphere was added sodium triacetoxyborohydride (1.4 g, 6.5 mmol, 2 eq.) in a single portion. The reaction was stirred at room temperature for 24 h. The reaction was concentrated in vacuo and partitioned between EtOAc (100 mL) and 5% aq. KOH (50 mL). The aqueous layer was extracted twice more with EtOAc (2×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to afford a dark oil. Flash chromatography on silica gel eluting with 5% methanol/methylene chloride afforded 4-[(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester, as an oil (790 mg).

reactant | 7-nitro-3,4-dihydro-1H-naphthalen-2-one | 2.98 mmol, 600 mg | [N+](=O)([O-])C1=CC=C2CCC(CC2=C1)=O | C10H9NO3
reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 3.3 mmol, 700 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | sodium triacetoxyborohydride | 6.5 mmol, 1.4 g, 2 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 4-[(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C21H31N3O4
